US05124324
1-(1-Methyl-2-piperidyl)-2-methyl-1-propyl 1H-indole-3-carboxylate
The title compound was prepared by the procedures of Example 1 wherein the reaction solvent is changed to THF: 1,3-dimethyl-2-imidazolidinone using 1-(1-methyl-2-piperidyl)-2-methyl-1-propanol prepared in Reference Examples 5 and 6.

reactant | 1,3-dimethyl-2-imidazolidinone | CN1C(N(CC1)C)=O | C5H10N2O
reactant | 1-(1-methyl-2-piperidyl)-2-methyl-1-propanol | CN1C(CCCC1)C(C(C)C)O | C10H21NO
solvent | THF | C1CCOC1 | C4H8O
product | 1-(1-Methyl-2-piperidyl)-2-methyl-1-propyl 1H-indole-3-carboxylate | N1C=C(C2=CC=CC=C12)C(=O)OC(C(C)C)C1N(CCCC1)C | C19H26N2O2
